US04771046
(1R,5S,6S)-2-[2-(3-Oxopiperazin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid (Compound No. 2)
A suspension of 108 mg of 2-(3-oxopiperazin-1-yl)-2-iminoethylmercaptan hydrochloride in 0.8 ml of dimethyl sulfoxide was added, under ice-cooling, to a solution of 130 mg of p-nitrobenzyl (1RS,5S,6S)-2-phenylsulfinyl-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate in 1.4 ml of acetonitrile, and the mixture was stirred for 30 minutes. The reaction mixture was then poured into 50 ml of anhydrous diethyl ether, and the solvent was decanted off. The oily residue was dissolved in a mixture of 8 ml of tetrahydrofuran, 2.7 ml of water and 9.4 ml of 0.1M phosphate buffer solution (pH 7.0), and the resulting solution was subjected to catalytic hydrogenation at room temperature for 2 hours in the presence of 160 mg of palladium-carbon. The insolubles were filtered off over "Celite" (Trade Mark) filter aid, and the filtrate was extracted twice with 30 ml portions of diethyl ether. The aqueous phase was concentrated by evaporation under reduced pressure and the residue was purified through a Lobar column (Merck "LiChloprep RP-8", size B, two columns), eluted with 5% aqueous methanol, to give the title compound having the same properties as those of the product obtained in Example 13.

reactant | 2-(3-oxopiperazin-1-yl)-2-iminoethylmercaptan hydrochloride | 108 mg | Cl.O=C1CN(CCN1)C(CS)=N
reactant | p-nitrobenzyl (1RS,5S,6S)-2-phenylsulfinyl-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 130 mg | C1(=CC=CC=C1)S(=O)C=1C([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C23H22N2O7S
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | dimethyl sulfoxide | 0.8 ml | CS(=O)C | C2H6OS
solvent | acetonitrile | 1.4 ml | C(C)#N | C2H3N
product | (1R,5S,6S)-2-[2-(3-Oxopiperazin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid | O=C1CN(CCN1)C(CSC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C)=N | C16H22N4O5S
